US05565449
1-methyl-4-(2-carboxyethyl)-7-(5-guanidino-1-pentyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione was prepared by the method described in Example 2. Thus, 18 mgs 1-methyl-4-(2-carboxyethyl)-7-(5-amino-1-pentyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione ylelded 17 mgs (87%) 1-methyl-4-(2-carboxyethyl)-7-(5-guanidino-1-pentyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione trifluoracetate (1/2" C-18 reverse-phase column, eluting with a solvent gradient of 10:90 methanol(0.1% trifluoracetic acid)/water (0.1% trifluoracetic acid), time 0 to 10 min, to 50:50 methanol(0.1% trifluoracetic acid)/water (0.1% trifluoracetic acid), time 10 min to 40 min, flow=10 ml/min, Rt =38.5 min, un detection 254 nm). HRMS (FAB) molecular ion m/z=390.2132 (cald. C19H27N5O4, 390.2182)

reactant | 1-methyl-4-(2-carboxyethyl)-7-(5-amino-1-pentyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | 18 mgs | CN1C(CN(C(C2=C1C=CC(=C2)CCCCCN)=O)CCC(=O)O)=O | C18H25N3O4
reactant | 1-methyl-4-(2-carboxyethyl)-7-(5-guanidino-1-pentyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione trifluoracetate | 17 mgs | FC(C(=O)O)(F)F.CN1C(CN(C(C2=C1C=CC(=C2)CCCCCNC(=N)N)=O)CCC(=O)O)=O
product | 1-methyl-4-(2-carboxyethyl)-7-(5-guanidino-1-pentyl)-3,4-dihydro-1H-1,4-benzodiazepine-2,5-dione | CN1C(CN(C(C2=C1C=CC(=C2)CCCCCNC(=N)N)=O)CCC(=O)O)=O | C19H27N5O4
